US06630477B1
(c) (+)-(1R,4S)-4-Amino-2-cyclopentene-1-methanol Hydrochloride
(+)-(1S,4R)-tert-Butyl N-[4-(hydroxymethyl)-2-cyclopenten-1-yl]carbamate (part b of this example, 10.66 g, 50.0 mmol) was refluxed in absolute ethanol (25 mL) with concentrated hydrochloric acid (5.0 mL, 60 mequiv) for 2.5 hours. Evaporation of volatiles left title compound as white solid; mass spectrum (ES): 114 (M+1); 1H-NMR (DMSO-d6) δ: 7.9 (m, 3H), 6.03 and 5.75 (two m, 2H), 4.11 (m, 1H), 3.41 (d, J=5.4 Hz, 2H), 2.8 (m, 1H), 2.36 (m, 1H), 1.4 (m, 1H). This solid was used immediately in the following example.

reactant | (+)-(1S,4R)-tert-Butyl N-[4-(hydroxymethyl)-2-cyclopenten-1-yl]carbamate | OC[C@H]1C=C[C@H](C1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | hydrochloric acid | 5.0 mL | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (+)-(1R,4S)-4-Amino-2-cyclopentene-1-methanol Hydrochloride | Cl.N[C@@H]1C=C[C@@H](C1)CO | InChI=1S/C6H11NO.ClH/c7-6-2-1-5(3-6)4-8;/h1-2,5-6,8H,3-4,7H2;1H/t5-,6+;/m0./s1
